US08383639B2
2-(5-(4-Fluorobenzyl)-4H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
To a slurry of 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide (0.04 g, 0.116 mmol, 1.0 equiv) in acetonitrile (1.2 mL) under a nitrogen atmosphere, was added MeI (0.011 mL, 0.174 mmol, 1.5 equiv). The reaction was heated at 50° C. (oil bath) for 1 h. The reaction was then cooled to ambient temperature and concentrated in vacuo. 2-(4-Fluorophenyl)acetohydrazide (0.058 g, 0.35 mmol, 3 equiv) was then added to the residue followed by methanol (1 mL) and the slurry was heated at 70° C. (oil bath). After stirring 1 h, the reaction was cooled to ambient temperature and concentrated in vacuo. DMF (1 mL) was added to the residue and the solution was heated at 150° C. (oil bath) for 3.5 h. The reaction was then cooled to ambient temperature and stirred 3 d. The reaction was heated at 140° C. (oil bath) for 2 h. The reaction was cooled to ambient temperature and concentrated in vacuo. The residue was added to a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×2). The combined CH2Cl2 extracts were dried (Na2SO4) and then concentrated in vacuo. The crude product was purified by reverse phase preparatory HPLC to provide the title compound (0.021 g, 49% yield) as a gray solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.99 (s, 2H), 7.21-7.39 (m, 2H), 7.00 (t, J=8.69 Hz, 2H), 4.17 (s, 2H), 4.05 (s, 4H), 1.62 (s, 6H); LCMS (ES+, (M+H)+) m/z 372.16.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide | 0.116 mmol, 0.04 g, 1.0 equiv | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(N)=S | C17H19N3O3S
reactant | MeI | 0.174 mmol, 0.011 mL, 1.5 equiv | CI | CH3I
reactant | 2-(4-Fluorophenyl)acetohydrazide | 0.35 mmol, 0.058 g, 3 equiv | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
reactant | methanol | 1 mL | CO | CH4O
solvent | acetonitrile | 1.2 mL | C(C)#N | C2H3N
product | 2-(5-(4-Fluorobenzyl)-4H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | 0.021 g, 49% yield | FC1=CC=C(CC=2NC(=NN2)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C=C1 | C18H18FN5O3
